US04416985
A solution of 120 g of 3β,7β-dihydroxy-15β,16β-methylene-5-androsten-17-one in 1,000 ml of dimethylformamide is combined with 31 g of imidazole and cooled to -20° C. Within 2 hours, 63 g of tert.-butyldimethylchlorosilane in 450 ml of dimethylformamide is added dropwise to the reaction mixture, and the latter is agitated for another hour. The reaction product is precipitated with sodium-chloride-containing water, filtered off, washed with water, and dissolved in methylene chloride. The solution is dried over sodium sulfate and evaporated. After chromatography on silica gel with hexane-acetone, 128.8 g of 3β-(tert.-butyldimethylsilyloxy)-7β-hydroxy-15β,16β-methylene-5-androsten-17-one is obtained.

reactant | 3β,7β-dihydroxy-15β,16β-methylene-5-androsten-17-one | 120 g | O[C@@H]1CC2=C[C@@H]([C@H]3[C@@H]4[C@H]5[C@@H](C([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)C5)O | C20H28O3
reactant | imidazole | 31 g | N1C=NC=C1 | C3H4N2
reactant | tert.-butyldimethylchlorosilane | 63 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | dimethylformamide | 1,000 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 450 ml | CN(C=O)C | C3H7NO
product | 3β-(tert.-butyldimethylsilyloxy)-7β-hydroxy-15β,16β-methylene-5-androsten-17-one | 128.8 g | C(C)(C)(C)[Si](O[C@@H]1CC2=C[C@@H]([C@H]3[C@@H]4[C@H]5[C@@H](C([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)C5)O)(C)C | C26H42O3Si
